data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].COC(=O)N1CCC[C:11](=[C:10]1C2=CC=CC=C2)[OH:12]>>[H:20][C:10]1([C:11](=[OH+:12])CCCN1C(=O)OC)C2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].[OH2:21] 10,11=10,20;12=11;20,21=21
[H:20][N+:21]1(CCCC1)C(=C)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=C)[N:21]1CCCC1 10=20;20,21=21
[H:20][OH2+:21].C1CCC(CC1)[OH:10].C=CC#N>>[H:20][OH+:10]C1CCCCC1.[OH2:21].C=CC#N 10=20;20,21=21
[CH:20]([NH2:10])([OH2+:21])O.[Cl-]>>[CH:20](=[NH2+:10])O.[OH2:21].[Cl-] 10=20;20,21=21
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+:21]4([CH3:20])C#N)C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1.[Br-:10]>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N:21]4C#N)C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1.[CH3:20][Br:10] 10=20;20,21=21
[H:20][O:21]CC.CC(C=O)C(C)[O-:10]>>[H:20][O:10]C(C)C(C)C=O.CC[O-:21] 10=20;20,21=21
[CH2:20]=[NH+:21]C(CC1=CC=C([CH:11]=[CH:10]1)O)C(=O)O.CO.O.[Cl-]>>C1C([NH:21][CH2:20][CH:10]2C1=CC=C([CH+:11]2)O)C(=O)O.CO.O.[Cl-] 10,11=10,20;20,21=21
[H:20][OH2+:21].CO[C:11](=[CH:10]CC#N)[O-:12]>>[H:20][CH:10](CC#N)[C:11](=[O:12])OC.[OH2:21] 10,11=10,20;20,21=21;12=11
CC[O:10][CH:20](C)[NH2+:21]C>>CC[O+:10]=[CH:20]C.C[NH2:21] 10=20;20,21=21
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)CC=CC.CCCCCCCC(C(C)C=[O:10])OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(CC=CC)[O+:10]=CC(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C 10=20,
C1=CC=C(C=C1)[CH:20]([CH:10]=[CH:11][O-:12])[OH:21]>>C1=CC=C(C=C1)[CH:20]=[CH:10][CH:11]=[O:12].[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=[O:10])C>>[H:20][O+:10]=C(C)OI1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)C(F)(F)F 10=20;20,21=21,22
[B-:10]([O+:11]=C(C)OCCC)(F)(F)F>>[B:10](F)(F)F.CCCOC(=[O:11])C 10,11=11
CC[C:20](C(C)C(=O)C)([O-:10])[Cl:21]>>CC[C:20](=[O:10])C(C)C(=O)C.[Cl-:21] 10=20;20,21=21
[Li+:20].CCCC(=[O:10])OCCC.[BH-](CC)(CC)CC.[AlH4-]>>[Li:20][O+:10]=C(CCC)OCCC.[BH-](CC)(CC)CC.[AlH4-] 10=20,
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])OC.CC[O-:10]>>[H:20][O:10]CC.CO[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
CCCC[Sn:20](CCCC)(CCCC)C1(C=CC(=[O+]C)C=C1)CN(C)C.[I-:10]>>CCCC[Sn-:20](CCCC)(CCCC)(C1(C=CC(=[O+]C)C=C1)CN(C)C)[I:10] 10=20,
[H:20][O:21]CC.C[C:10](C)(O)[Na:11]>>[H:20][C:10](C)(C)O.CC[O-:21].[Na+:11] 10,11=10,20;20,21=21
CS[CH:10]=[O:11]>>CS[CH+:10][O-:11] 10,11=11
C1[CH:20]([OH+:21]1)CCCCCO.C1C(O1)CCCCC[OH:10]>>C1C(O1)CCCCC[OH+:10][CH:20](CCCCCO)C[OH:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=C2C=CC=CC2=CC=C1.C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C.C1=CC2=CC=CC(=C2C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21](C)(C#N)[C:22](=[O:23])OCC.[H:10][Na:11]>>CCO[C:22](=[C:21](C)C#N)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
C[C+]=C[Si:20](C)(C)C.C[O:10][Fe]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Fe] 10=20,
CC[S+](C1=CC=CC=C1)O[C:20](C)([N+:21]2=CC=CC=C2)[O-:10]>>CC[S+](C1=CC=CC=C1)O[C:20](=[O:10])C.C1=CC=[N:21]C=C1 10=20;20,21=21
[B:20]1(OC2=C(O1)C=CC=C2)Cl.CCCC[C:11]#[C:10]C(=NOC)C1=CC=CC=C1>>[B-:20]1(OC2=C(O1)C=CC=C2)([C:10](=[C+:11]CCCC)C(=NOC)C3=CC=CC=C3)Cl 10,11=10,20
C1=CC=C(C=C1)C(=O)O[C:11]2=[CH:10]C=C(C=C2)Br.[Br:20][Br:21]>>C1=CC=C(C=C1)C(=O)O[C+:11]2C=CC(=C[CH:10]2[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C=C.[C-:10]#N>>[H:20][C:10]#N.C=CC(=O)[O-:21] 10=20;20,21=21
CN[C:20]1(OCC[O:21]1)[O-:10]>>CN[C:20](=[O:10])OCC[O-:21] 10=20;20,21=21
CC[CH+:20]OC.[OH2:10]>>CC[CH:20]([OH2+:10])OC 10=20,
CCCCCC(C[C:10]#[C:11]C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCCC1C[C:10](=[C+:11]C)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
C[C:20](=[O:21])CC=C(C)[NH:10]C1=NC(=CC=C1)Br.CC(=O)O.O>>CC1=CC[C:20]([NH+:10]1C2=NC(=CC=C2)Br)(C)[O-:21].CC(=O)O.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.C[Si](C)(C)C=[C:11]=[CH2:10]>>[H:20][CH2:10][C+:11]=C[Si](C)(C)C.CS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CCC(=O)C(CC1CCCCC1)(C(=O)O[C:20](=[O:21])CC)NC(=O)CC.CCC(=O)[O-:10].C1=CC=NC=C1>>CCC(=O)C(CC1CCCCC1)(C(=O)O[C:20](CC)([O-:21])[O:10]C(=O)CC)NC(=O)CC.C1=CC=NC=C1 10=20;20,21=21
C1[CH2:10][CH:11]2[CH:20](CC1O2)[Br:21]>>[CH2:10]1CC2C[CH:20]1[CH+:11]O2.[Br-:21] 10,11=10,20;20,21=21
[H:20][Br:21].C1C[CH:10]=[C:11](C(C1)(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1CCCC([C+:11]1C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10,11=10,20;20,21=21
CCCN1[C:20](=[OH+:21])C2=C(C1=O)C=CC=C2.[OH2:10]>>CCCN1C(=O)C2=C([C:20]1([OH2+:10])[OH:21])C=CC=C2 10=20;20,21=21
CC(=O)[O:21][C:20](C)([O-:10])O[N+]1(C2CCC1C=CC2)C>>CC(=O)[O-:21].C[C:20](=[O:10])O[N+]1(C2CCC1C=CC2)C 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.CC(=O)CCC(C)([NH2+]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I)[O-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][O:10]C(C)(CCC(=O)C)[NH2+]C1=CC2=C(C=C1)C(=C(O2)C3=CC=CC=C3)I.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
C1CC2C(C1)C2([O-])[OH+:11][K:10].[OH2+][K].[Cl-]>>C1CC2C(C1)C2([OH:11])[O-].[K+:10].[OH2+][K].[Cl-] 10,11=11
